US08309562B2
(2-Aminomethyl-quinazolin-4-yl)-(4-ethoxy-2-fluoro-phenyl)-methyl-amine
(2-Chloromethyl-quinazolin-4-yl)-(4-ethoxy-2-fluoro-phenyl)-amine hydrochloride: To 4-chloro-2-chloromethyl-quinazoline (500 mg, 2.3 mmol) dissolved in isopropanol (7.6 mL) was added 4-ethoxy-2-fluoro-phenylamine (540 mg, 2.8 mmol) and HCl (12 M, 1 drop). The reaction was stirred overnight at room temperature. The resulting precipitate was filtered to give 613 mg of the title compound. 1H NMR (DMSO-d6) δ 8.76 (d, 1H), 8.1 (t, 1H), 7.98 (d 1H), 7.85 (t, 1H), 7.47 (t 1H), 7.04 (d, 1H), 6.90 (d, 1H), 4.75 (s, 2H), 4.1 (q, 2H), 1.36 (t, 3H); LC-MS (ESI+; 351 ([M+H]+)).

reactant | (2-Chloromethyl-quinazolin-4-yl)-(4-ethoxy-2-fluoro-phenyl)-amine hydrochloride | Cl.ClCC1=NC2=CC=CC=C2C(=N1)NC1=C(C=C(C=C1)OCC)F
reactant | 4-chloro-2-chloromethyl-quinazoline | 2.3 mmol, 500 mg | ClC1=NC(=NC2=CC=CC=C12)CCl | C9H6Cl2N2
reactant | 4-ethoxy-2-fluoro-phenylamine | 2.8 mmol, 540 mg | C(C)OC1=CC(=C(C=C1)N)F | C8H10FNO
solvent | isopropanol | 7.6 mL | C(C)(C)O | C3H8O
catalyst | HCl | 12 M, 1 drop | Cl | ClH
product | (2-Aminomethyl-quinazolin-4-yl)-(4-ethoxy-2-fluoro-phenyl)-methyl-amine | 613 mg | NCC1=NC2=CC=CC=C2C(=N1)N(C)C1=C(C=C(C=C1)OCC)F | C18H19FN4O
